US04337268
20 g (0.08 mol) of 2,6-dimethyl-N-methoxyacetyl-N-acetonylaniline, 7.5 g (0.09 mol) of O-methyl-hydroxylamine hydrochloride and 9.1 g (0.09 mol) of triethylamine in 100 ml of ethanol were heated under reflux for 5 hours. After distilling off the solvent in vacuo, the residue was partitioned between water/methylene chloride. The organic phase was separated off, dried over sodium sulphate and concentrated. After adding petroleum ether, the residue crystallized. 21 g (94% of theory) of 2,6-dimethyl-N-(2-methoxyimino-prop-1-yl)-N-methoxyacetylaniline of melting point 56°-57° C. were obtained.

reactant | 2,6-dimethyl-N-methoxyacetyl-N-acetonylaniline | 0.08 mol, 20 g | CC1=C(N(CC(=O)C)C(COC)=O)C(=CC=C1)C | C14H19NO3
reactant | O-methyl-hydroxylamine hydrochloride | 0.09 mol, 7.5 g | Cl.CON
reactant | triethylamine | 0.09 mol, 9.1 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2,6-dimethyl-N-(2-methoxyimino-prop-1-yl)-N-methoxyacetylaniline | 21 g, 94% | CC1=C(N(C(COC)=O)CC(C)=NOC)C(=CC=C1)C | C15H22N2O3
